US08871798B2
4-[(E)-2-(5-Bromopyridin-2-yl)vinyl]-2-methyloctahydropyrrolo[3,4-a]indolizine-1,3-dione (3 racemic mixtures)
A mixture of 820 mg of (E)-3-(5-bromopyridin-2-yl)propenal, 500 mg of D-pipecolinic acid, 430 mg of N-methylmaleinimide and 20 ml of MeCN is boiled at reflux for 2 h. The solvents are removed and the residue is purified by column chromatography (silica gel, ethyl acetate:DCM=3:1). Using this method, 3 pure fractions are obtained.

reactant | (E)-3-(5-bromopyridin-2-yl)propenal | 820 mg | BrC=1C=CC(=NC1)/C=C/C=O | C8H6BrNO
reactant | D-pipecolinic acid | 500 mg | C1CCN[C@H](C1)C(=O)O | C6H11NO2
reactant | N-methylmaleinimide | 430 mg | CN1C(C=CC1=O)=O | C5H5NO2
solvent | MeCN | 20 ml | CC#N | C2H3N
product | 4-[(E)-2-(5-Bromopyridin-2-yl)vinyl]-2-methyloctahydropyrrolo[3,4-a]indolizine-1,3-dione | BrC=1C=CC(=NC1)/C=C/C1C2C(C3CCCCN13)C(N(C2=O)C)=O | C18H20BrN3O2
